US06852731B2
N-(4-chlorobenzyl)-2-{[hydroxy(2-hydroxy-2-phenylethyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
A mixture of N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (220 mg, 0.557 mmol), 3-hydroxy-3-phenylpropylhydroxylamine hemioxalate (Aldrich S662003, 204 mg, 0.839 mmol) and diisopropylethylamine (389 μL, 2.23 mmol) in dry DMF (10 mL) was heated to 60° C. for 18 hours. The solution was then diluted with water (75 mL). The resulting precipitate was collected by filtration and the collected solid was dried in vacuo. Recrystallization from acetonitrile three times gave the title compound (41 mg) as a white solid.

reactant | N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.557 mmol, 220 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CCl)C)=O)C=C1 | C18H16Cl2N2O2S
reactant | 3-hydroxy-3-phenylpropylhydroxylamine hemioxalate | 0.839 mmol, 204 mg | C(C(=O)O)(=O)O.OC(CCNO)C1=CC=CC=C1.OC(CCNO)C1=CC=CC=C1
reactant | diisopropylethylamine | 2.23 mmol, 389 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 75 mL | O | H2O
product | N-(4-chlorobenzyl)-2-{[hydroxy(2-hydroxy-2-phenylethyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 41 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CN(CC(C3=CC=CC=C3)O)O)C)=O)C=C1 | C26H26ClN3O4S
